US09376422B2
Step 2: Synthesis of methyl 5-chloro-3-((cyclopentylmethyl)(methyl)amino)-2-methylbenzoate
To a stirred solution of methyl 5-chloro-3-((cyclopentylmethyl)amino)-2-methylbenzoate (1.0 g, 3.5 mmol) in acetonitrile (10 mL), cesium carbonate (2.3 g, 7.1 mmol) and methyl iodide (5.0 g, 35 mmol) were added. The mixture was heated at 80° C. for 12 h. cooled to room temperature and filtered. The residue was washed with ethyl acetate and the filtrate was concentrated and then purified by column chromatography to afford the title compound (1.0 g, 95%).

reactant | methyl 5-chloro-3-((cyclopentylmethyl)amino)-2-methylbenzoate | 3.5 mmol, 1.0 g | ClC=1C=C(C(=C(C(=O)OC)C1)C)NCC1CCCC1 | C15H20ClNO2
reactant | cesium carbonate | 7.1 mmol, 2.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 35 mmol, 5.0 g | CI | CH3I
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | methyl 5-chloro-3-((cyclopentylmethyl)(methyl)amino)-2-methylbenzoate | 1.0 g, 95% | ClC=1C=C(C(=C(C(=O)OC)C1)C)N(C)CC1CCCC1 | C16H22ClNO2
